US07105503B2
To a suspension of MOCl5 (8 g) in 50 ml of THF was added 10 ml of H2O and followed by the addition of Zn dust (3 g) 5 minutes later. 5-Nitrobenzo-2,1,3-thiadiazole (1.0 g) was then added to this mixture and the resulting reaction mixture was kept under reflux for 20 minutes. Benzo[1,2,5]thiadiazol-5-ylamine (0.4 g) was isolated by filtration and purified by column chromatography to be used in the next step.

reactant | H2O | 10 ml | O | H2O
reactant | 5-Nitrobenzo-2,1,3-thiadiazole | 1.0 g | [N+](=O)([O-])C1=CC=2C(=NSN2)C=C1 | C6H3N3O2S
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | Zn | 3 g | [Zn] | Zn
product | Benzo[1,2,5]thiadiazol-5-ylamine | 0.4 g | N1=C2C(=NS1)C=C(C=C2)N | C6H5N3S
